US08183381B2
Step 2: 5-(Prop-2-ynyloxy)-2-(1H-tetrazol-1-yl)pyridine
To a flask under N2 fitted with a reflux condenser was added 6-tetrazol-1-yl-pyridin-3-ol (2.25 g, 13.7 mmol) and N,N-dimethylformamide (8.2 mL). Potassium carbonate (3.79 g, 27.4 mmol, 2 eq.), potassium iodide (0.143 g, 0.86 mmol, 0.06 eq.) and propargyl chloride (1.98 mL, 17.9 mmol, 1.3 eq.) were added and heated at 80° C. for three hours. The reaction was cooled to room temperature and 10 mL of water was added to affect precipitation. The solid was filtered off, washed with water and dried overnight. The expected product was used in the next step without further purification. 1H NMR (DMSO-d6): δ 10.08 (1H, s), 8.36 (1H, d, J=3.0 Hz), 8.01 (1H, d, J=9 Hz), 7.79 (1H, dd, J=3.0, 9.0 Hz), 5.01 (2H, s), 3.71 (1H, s).

reactant | 6-tetrazol-1-yl-pyridin-3-ol | 13.7 mmol, 2.25 g | N1(N=NN=C1)C1=CC=C(C=N1)O | C6H5N5O
reactant | Potassium carbonate | 27.4 mmol, 3.79 g, 2 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.86 mmol, 0.143 g, 0.06 eq. | [I-].[K+]
reactant | propargyl chloride | 17.9 mmol, 1.98 mL, 1.3 eq. | C(C#C)Cl | C3H3Cl
solvent | water | 10 mL | O | H2O
solvent | N,N-dimethylformamide | 8.2 mL | CN(C=O)C | C3H7NO
product | 5-(Prop-2-ynyloxy)-2-(1H-tetrazol-1-yl)pyridine | C(C#C)OC=1C=CC(=NC1)N1N=NN=C1 | C9H7N5O
